US04963561
6-[4-(Acetylamino)phenyl]-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one
[I; Ar 4-CH3CONHC6H4, R1 and R3 =H, R5 =CH3 ]was prepared from 1.73 g 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one hydrochloride and 0.65 ml acetic anhydride according to the procedure of Example 7, and was obtained in 90% yield as a colorless solid, m.p. above 300° C. when recrystallized from aqueous DMF.

reactant | 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one hydrochloride | 1.73 g | Cl.NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O
reactant | acetic anhydride | 0.65 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-[4-(Acetylamino)phenyl]-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one | 90% yield | C(C)(=O)NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O | C15H14N4O2
